US08420823B2
N-(2,3-dihydro-1H-inden-1-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 73 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 1-aminoindane as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 1-aminoindane | NC1CCC2=CC=CC=C12 | C9H11N
product | N-(2,3-dihydro-1H-inden-1-yl)-3-(piperidin-1-ylsulfonyl)benzamide | C1(CCC2=CC=CC=C12)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C21H24N2O3S
